US07960369B2
[3-(3-methylphenoxy)phenyl]methanol
3-(3-Methylphenoxy)benzaldehyde (5.80 g, 27.3 mmol) was dissolved in a mixture of 1,2-dimethoxyethane (30 mL) and tetrahydrofuran (30 mL), sodium borohydride (0.567 g, 15.0 mmol) was added under ice-cooling and the mixture was stirred at the same temperature for 4 hrs. Dil. hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20%-60% ethyl acetate/hexane) to give the title compound (4.83 g, yield 83%) as a pale-yellow oil.

reactant | 3-(3-Methylphenoxy)benzaldehyde | 27.3 mmol, 5.80 g | CC=1C=C(OC=2C=C(C=O)C=CC2)C=CC1 | C14H12O2
reactant | sodium borohydride | 15.0 mmol, 0.567 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | [3-(3-methylphenoxy)phenyl]methanol | 4.83 g, yield 83% | CC=1C=C(OC=2C=C(C=CC2)CO)C=CC1 | C14H14O2
